US08912186B2
By a procedure similar to that of example 1.59.1, starting from benzaldehyde and commercial 3-acetylindole, 1-(1H-indol-3-yl)-3-phenylprop-2-en-1-one was obtained as orange coloured solid.

reactant | benzaldehyde | C(C1=CC=CC=C1)=O | C7H6O
reactant | 3-acetylindole | C(C)(=O)C1=CNC2=CC=CC=C12 | C10H9NO
product | 1-(1H-indol-3-yl)-3-phenylprop-2-en-1-one | N1C=C(C2=CC=CC=C12)C(C=CC1=CC=CC=C1)=O | C17H13NO
